US07709466B2
c) 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-phenyl-6-piperidin-1-ylmethyl-1H-indole
68 mg 3-Iodo-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-6-piperidin-1-ylmethyl-1H-indole, 17 mg phenylboronic acid, 86 mg potassium phosphate tribasic n-hydrate, and 12 mg tetrakis(triphenylphosphine)palladium(0) are dissolved in a mixture of 2.0 mL toluene and 72 μL water. Argon is bubbled through the solution for 5 minutes. The mixture is heated to 90° C. for 2.5 hours. Concentration in vacuo affords 62 mg crude product.

reactant | 3-Iodo-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-6-piperidin-1-ylmethyl-1H-indole | 68 mg | IC1=C(NC2=CC(=CC=C12)CN1CCCCC1)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C24H24IN5O
reactant | phenylboronic acid | 17 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 72 μL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-phenyl-6-piperidin-1-ylmethyl-1H-indole | 62 mg | COC=1N=NC(=CC1C=1NC2=CC(=CC=C2C1C1=CC=CC=C1)CN1CCCCC1)C1=CC=NC=C1 | C30H29N5O
